US04423213
A solution of benzhydryl 7-(4-bromo-2-methoxyiminoacetoacetamido)-3-vinyl-3-cephem-4-carboxylate (syn isomer)(1.2 g), thiourea (0.5 g) and sodium acetate (trihydrate)(0.7 g) in water (20 ml) and tetrahydrofuran (20 ml) was stirred at 30° C. for 3.5 hours. The reaction mixture was extracted with ethyl acetate, and the extract was washed with water and dried over anhydrous magnesium sulfate. Removal of the solvent gave a residue, which was pulverized with diethyl ether to obtain benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (1.05 g).

reactant | benzhydryl 7-(4-bromo-2-methoxyiminoacetoacetamido)-3-vinyl-3-cephem-4-carboxylate | 1.2 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC)=O | C27H24BrN3O6S
reactant | thiourea | 0.5 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 0.7 g | C(C)(=O)[O-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 1.05 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H25N5O5S2
